GM_C_filter.spice
x1 net1 net5 net2 0 GM_cell     gm={gm_1} RO={RO1}
x2 net1 0 net1 0 GM_cell     gm={gm_1} RO={RO1}
x3 net4 net2 net3 0 GM_cell  gm={gm_1} RO={RO1}
x4 OUT net3 OUT 0 GM_cell    gm={gm_1} RO={RO1}
x5 net2 net1 net4 0 GM_cell  gm={gm_1} RO={RO1}
x6 net3 net4 OUT 0 GM_cell   gm={gm_1} RO={RO1}
C1 net1 0 {L_1} 
C2 net4 net1 {L_2} 
C3 OUT net4 {L_4} 
C4 net4 0 {L_3} 
C5 OUT 0 {L_5} 
C6 net2 0 {C_2} 
C7 net3 0 {C_4} 
V1 net5 0 {VIN}
**.ends

* expanding   symbol:  GM_cell.sym # of pins=4
** sym_path: /home/abdo/material/forth_year/Graduation_Project/Filter/SCLICAP_TEST/GM_cell.sym
** sch_path: /home/abdo/material/forth_year/Graduation_Project/Filter/SCLICAP_TEST/GM_cell.sch
.subckt GM_cell Ioutp Vinp Vinn Ioutn gm={gm} RO={RO}
*.ipin Vinp
*.ipin Vinn
*.iopin Ioutn
*.iopin Ioutp
G1 Ioutn Ioutp Vinp Vinn {gm}
R1 Ioutn Ioutp {RO} 
.ends

.end
