GM_C_filter2.spice
x1 net1 net6 0 0 GM_cell gm={2*k_1*gm_1} AV={AV_1/2}
x2 net1 0 net1 0 GM_cell gm={gm_1*k_s} AV={AV_1}
x3 net2 net1 0 0 GM_cell gm={k_1*gm_1} AV={AV_1}
x4 net1 0 net2 0 GM_cell gm={k_1*gm_1} AV={AV_1}
x5 net3 net2 0 0 GM_cell gm={k_1*gm_1} AV={AV_1}
x6 net2 0 net3 0 GM_cell gm={k_1*gm_1} AV={AV_1}
C1 net2 0 {C_1} 
C2 net3 0 {L_1} 
x7 net4 net3 0 0 GM_cell gm={k_1*gm_1} AV={AV_1}
x8 net3 0 net4 0 GM_cell gm={k_1*gm_1} AV={AV_1}
C3 net4 0 {C_2} 
x9 net5 net4 0 0 GM_cell gm={k_1*gm_1} AV={AV_1}
x10 net4 0 net5 0 GM_cell gm={k_1*gm_1} AV={AV_1}
C4 net5 0 {L_2} 
x11 OUT net5 0 0 GM_cell gm={k_1*gm_1} AV={AV_1}
x12 net5 0 OUT 0 GM_cell gm={k_1*gm_1} AV={AV_1}
C5 OUT 0 {C_5} 
x13 OUT 0 OUT 0 GM_cell gm={k_l*gm_1} AV={AV_1}
V1 net6 0 {VIN}
C6 net4 net2 {C_3} 
C7 OUT net4 {C_4} 
**.ends

* expanding   symbol:  GM_cell.sym # of pins=4
** sym_path: /home/abdo/material/forth_year/Graduation_Project/Filter/SCLICAP_TEST/GM_cell.sym
** sch_path: /home/abdo/material/forth_year/Graduation_Project/Filter/SCLICAP_TEST/GM_cell.sch
.subckt GM_cell Ioutp Vinp Vinn Ioutn  gm=1 AV=50
*.ipin Vinp
*.ipin Vinn
*.iopin Ioutn
*.iopin Ioutp
G1 Ioutn Ioutp Vinp Vinn {gm}
R1 Ioutn Ioutp {AV/gm} 
.ends

.end
