LC_ladder.spice
L1 net1 IN {L_2} 
L2 OUT net1 {L_4} 
C1 IN 0 {C_1} 
C2 net1 0 {C_3} 
R1 OUT 0 {RL} 
R2 IN net2 {RS} 
V1 net2 0 {VIN}
C3 OUT 0 {C_5} 
C4 IN net1 {C_Z1} 
C5 net1 OUT {C_Z2} 
.end
