LC_ladder_series_first
L1 net1 IN {L_1} 
L2 net3 net1 {L_3} 
C2 net1 net4 {C_2} 
R1 OUT 0 {RL} 
R2 IN net2 {RS} 
V1 net2 0 {VIN}
C3 net3 net5 {C_4} 
L4 net4 0 {L_2} 
L5 net5 0 {L_4} 
L6 OUT net3 {L_5} 
.end
