LC_ladder_series_first_Lossy
L1 net4 net8 {L_1} 
L2 net3 net4 {L_3} 
C2 net4 net6 {C_2} 
R1 OUT 0 {RL} 
R2 IN net1 {RS} 
V1 net1 0 {VIN}
C3 net2 net7 {C_4} 
L4 net5 0 {L_2} 
L5 net9 0 {L_4} 
L6 net10 net2 {L_5} 
R3 net8 IN {3*RLOSS} 
R4 net2 net3 {2*RLOSS} 
R5 net5 net6 {2*RLOSS} 
R6 net6 net4 {1/(2*RLOSS)} 
R7 net7 net2 {1/(2*RLOSS)} 
R8 net9 net7 {2*RLOSS} 
R9 OUT net10 {2*RLOSS} 
.end
